US09212168B2
(a) (2S,4S)-4-Methoxy-2-{4-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-1H-imidazol-2-yl}-pyrrolidine-1-carboxylic acid tert-butyl ester
To a solution of (2S,4S)-2-[5-(4-Bromo-phenyl)-1H-imidazol-2-yl]-4-methoxy-pyrrolidine-1-carboxylic acid tert-butyl ester (335 mg, 0.79 mmol), bis(pinacolato)diboron (212 mg, 0.83 mmol) and potassium acetate (117 mg, 1.19 mmol) was added degassed toluene (1.86 mL). The resulting mixture was sparged with nitrogen for 15 min, Pd(dppf)Cl2CH2Cl2 (19.4 mg, 0.024 mmol) was added, and the reaction mixture was stirred, purged with nitrogen, and heated to 90° C. for 4 h to provide the title intermediate. (m/z): [M+H]+ calcd for C25H36BN3O5 470.27. found 470.1.

reactant | (2S,4S)-2-[5-(4-Bromo-phenyl)-1H-imidazol-2-yl]-4-methoxy-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.79 mmol, 335 mg | C(C)(C)(C)OC(=O)N1[C@@H](C[C@@H](C1)OC)C=1NC(=CN1)C1=CC=C(C=C1)Br | C19H24BrN3O3
reactant | bis(pinacolato)diboron | 0.83 mmol, 212 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 1.19 mmol, 117 mg | C(C)(=O)[O-].[K+]
product | (2S,4S)-4-Methoxy-2-{4-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-1H-imidazol-2-yl}-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H](C[C@@H](C1)OC)C=1NC=C(N1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C25H36BN3O5
